US08022205B2
(4-Methyl-piperazin-1-yl)-(4-nitro-phenyl)-methanone
Using 4-nitro-benzoic acid (1 g) instead of 3-nitro-benzoic acid, and 1-methyl-piperazine (797 μl) instead of 1-ethyl-piperazine, in the same manner as Step A in Example 1-D-101, the desired compound was obtained as a crude product.

reactant | 4-nitro-benzoic acid | 1 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | 1-methyl-piperazine | 797 μl | CN1CCNCC1 | C5H12N2
product | (4-Methyl-piperazin-1-yl)-(4-nitro-phenyl)-methanone | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O3
